US07244730B2
(Step 5) 2-Methyl-5H-pyrrolo[3,4-b]pyridine-7-amine
Triphenylphosphine (11 g, 42 mmol) was added to a mixed solution of 3-(azidomethyl)-6-methyl-2-pyridinecarbonitrile (5.79 g, 33.4 mmol) in a tetrahydrofuran (120 ml) —H2O (6 ml) mixed solvent while cooling on ice and the mixture was stirred at room temperature for 22 hours. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography. The solvent was distilled off from the ethyl acetate-methanol-29% aqueous ammonia (40:10:1) elution fraction, and washing was performed with ether-n-hexane to yield the title compound (1.65 g, 34%) as a brown solid. The solvent was also distilled off from the washed mother liquor to yield the title compound (0.49 g). The NMR data for both compounds matched exactly.

reactant | Triphenylphosphine | 42 mmol, 11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(azidomethyl)-6-methyl-2-pyridinecarbonitrile | 33.4 mmol, 5.79 g | N(=[N+]=[N-])CC=1C(=NC(=CC1)C)C#N | C8H7N5
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | H2O | 6 ml | O | H2O
product | 2-Methyl-5H-pyrrolo[3,4-b]pyridine-7-amine | 1.65 g, 34% | CC1=CC=C2C(=N1)C(=NC2)N | C8H9N3
